US04902719
E. Preparation of 5-fluoro-4-phthalimidopentanal
To a solution at -60° C. of oxalylchloride (75.3 g, 0.59 mol) in dry dichloromethane (2 L) under nitrogen, was added a solution of dry DMSO (89.1 g, 1.14 mol) in dry dichloromethane (2 L). 5-Fluoro-4-phthalimidopentanol, 5a, (R=--CH2F) (135 g, 0.54 mol) in CH2Cl2 (2 L) was then added over 15 min. The mixture was stirred 45 min. at -60° C., a solution of triethylamine (352 g, 3.47 mol) in dry CH2Cl2 (2 L) was added slowly (exothermic). The solution was stirred overnight, cooled to -10° C. and water (2 L) added. The organic phase was separated, washed with 4 N HCl, followed by water (3×2 L). The organic phase was separated, dried over Na2SO4 and evaporated. The residue was dissolved in ether, washed with water (3×0.5 L) and dried over Na2SO4. Evaporation of the ether phase gave an oil which was heated at 70° C./0.1 mm Hg to remove traces of DMSO. The title compound (6, R=--CH2F) was obtained as a red oil: 136 g (100%). NMR (1H, CDCl3, 90 MHz).

reactant | oxalylchloride | 0.59 mol, 75.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.14 mol, 89.1 g | CS(=O)C | C2H6OS
reactant | 5-Fluoro-4-phthalimidopentanol | FCC(CCCO)N1C(C=2C(C1=O)=CC=CC2)=O | C13H14FNO3
reactant | triethylamine | 3.47 mol, 352 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
solvent | water | 2 L | O | H2O
product | 5-fluoro-4-phthalimidopentanal | FCC(CCC=O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H12FNO3
